US08049016B2
Synthesis of 2-(3-(3,5-difluorobenzyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxamide
Following the procedure as described in Example 1, making variations as required to replace 2-(1-(4-fluorobenzyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-4-methylthiazole-5-carboxylic acid with 2-(3-(3,5-difluorobenzyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid, the title compound was obtained as a colorless solid: mp >200° C.; 1H NMR (300 MHz, DMSO-d6) δ 7.32 (br s, 2H), 7.21-7.04 (m, 3H), 4.47 (s, 2H), 4.05-4.00 (m, 2H), 3.54-3.48 (m, 2H), 2.47 (s, 3H); MS (ES+) m/z 352.8 (M+1).

reactant | 2-(1-(4-fluorobenzyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-4-methylthiazole-5-carboxylic acid | FC1=CC=C(CN2N=CN(C2=O)C=2SC(=C(N2)C)C(=O)O)C=C1 | C14H11FN4O3S
reactant | 2-(3-(3,5-difluorobenzyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | FC=1C=C(CN2C(N(CC2)C=2SC(=C(N2)C)C(=O)O)=O)C=C(C1)F | C15H13F2N3O3S
product | 2-(3-(3,5-difluorobenzyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxamide | FC=1C=C(CN2C(N(CC2)C=2SC(=C(N2)C)C(=O)N)=O)C=C(C1)F | C15H14F2N4O2S
